US08735390B2
6-Chloro-4-iodo-1H-indazole (1.0 eq., 1 wt, 50 g), sodium hydroxide (2.25 eq., 0.324 wt, 16.16 g) and tetrabutylammonium hydrogensulphate (0.05 eq., 0.061 wt, 3.05 g) are stirred in THF (9.5 vols, 475 ml) at 20±3° C. under a nitrogen atmosphere for 1 hr. The mixture is cooled to 15±3° C. and benzenesulfonyl chloride (1.10 eq., 0.51 vols, 25.5 ml) was added dropwise over 20 mins maintaining the reaction temperature at <25° C. and is washed in with THF (0.5 vols, 25 ml). The resulting mixture is then stirred under a nitrogen atmosphere at 20±3° C. for at least 1 hr before checking for completion by HPLC. The reaction mixture is then added to 0.25 M hydrochloric acid solution (18 vols, 900 ml) cooled to 0±3° C. over 15 minutes maintaining the temperature of the aqueous suspension at <20° C. This is washed in with 0.25M hydrochloric acid solution (2 vols, 100 ml). The resulting orange suspension is then stirred at 2±3° C. for at least 1 hr. The solid is filtered, washed with water (2×3 vols, 2×150 ml) and sucked dry for 20 mins, then dried under high vacuum at 40° C. (±3° C.) to constant probe temperature to afford 6-chloro-4-iodo-1-(phenylsulfonyl)-1H-indazole as an orange solid.

reactant | 6-Chloro-4-iodo-1H-indazole | 50 g, 1.0 eq. | ClC1=CC(=C2C=NNC2=C1)I | C7H4ClIN2
reactant | sodium hydroxide | 16.16 g, 2.25 eq. | [OH-].[Na+]
reactant | benzenesulfonyl chloride | 25.5 ml, 1.10 eq. | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
catalyst | tetrabutylammonium hydrogensulphate | 3.05 g, 0.05 eq. | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 475 ml | C1CCOC1 | C4H8O
product | 6-chloro-4-iodo-1-(phenylsulfonyl)-1H-indazole | ClC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)I | C13H8ClIN2O2S
